US09428511B2
Step 5: 8-(((3S,4S)-1-(1-Cyanocyclopropanecarbonyl)-4-(fluoromethyl)pyrrolidin-3-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide
A solution of 2-(1-ethyl-1H-pyrazol-4-yl)-8-(((3S,4S)-4-(fluoromethyl)pyrrolidin-3-yl)amino)imidazo[1,2-b]pyridazine-7-carboxamide, TFA (15 mg, 0.031 mmol), 1-cyanocyclopropanecarboxylic acid (6.85 mg, 0.062 mmol), HATU (17.59 mg, 0.046 mmol) and DIPEA (0.027 ml, 0.154 mmol) in DMF (0.4 ml) in a reaction vial was stirred at room temperature for 135 min. The crude material was purified via preparative LC/MS (Method A). Fractions containing the desired product were combined and dried via centrifugal evaporation to afford the title compound of Example 56 (8.5 mg, 59.2% yield). 1H NMR (500 MHz, DMSO-d6, two rotamers) δ 10.74 (d, J=8.9 Hz, 1H), 10.70 (d, J=8.4 Hz, 1H), 8.49 (br. s., 1H), 8.47 (br. s., 1H), 8.29 (br. s., 1H), 8.28 (br. s., 1H), 8.17 (s, 2H), 8.02 (br. s., 2H), 7.90 (s, 2H), 7.43 (br. s., 2H), 6.14 (br. s., 1H), 6.06 (br. s., 1H), 4.75 (d, J=5.4 Hz, 1H), 4.69 (d, J=6.4 Hz, 2H), 4.59 (d, J=6.9 Hz, 2H), 4.29 (dd, J=9.9, 5.9 Hz, 1H), 4.17 (q, J=7.4 Hz, 4H), 3.91-3.80 (m, 3H), 3.76 (dd, J=12.4, 8.9 Hz, 1H), 3.55 (d, J=10.9 Hz, 1H), 3.47 (dd, J=12.4, 7.4 Hz, 1H), 3.15 (dd, J=13.1, 6.2 Hz, 1H), 3.10-2.99 (m, 1H), 1.63 (br. s., 2H), 1.60-1.49 (m, 6H), 1.40 (t, J=7.2 Hz, 6H). HPLC/LCMS (Method F): m/z 466.21 ([M+H]+), Rt. 1.118 min.

reactant | 2-(1-ethyl-1H-pyrazol-4-yl)-8-(((3S,4S)-4-(fluoromethyl)pyrrolidin-3-yl)amino)imidazo[1,2-b]pyridazine-7-carboxamide | C(C)N1N=CC(=C1)C=1N=C2N(N=CC(=C2N[C@@H]2CNC[C@@H]2CF)C(=O)N)C1 | C17H21FN8O
reactant | TFA | 0.031 mmol, 15 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-cyanocyclopropanecarboxylic acid | 0.062 mmol, 6.85 mg | C(#N)C1(CC1)C(=O)O | C5H5NO2
reactant | HATU | 0.046 mmol, 17.59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.154 mmol, 0.027 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
product | 8-(((3S,4S)-1-(1-Cyanocyclopropanecarbonyl)-4-(fluoromethyl)pyrrolidin-3-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide | 8.5 mg, 59.2% yield | C(#N)C1(CC1)C(=O)N1C[C@H]([C@H](C1)CF)NC=1C=2N(N=CC1C(=O)N)C=C(N2)C=2C=NN(C2)CC | C22H24FN9O2
